US07034039B2
To a solution of tert-butyl(4-butoxy-7-fluoro-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (1.74 g, 4 mmol) in ethyl acetate (5 ml) was added a solution of 4N hydrogen chloride in ethyl acetate(5 ml), and the obtained solution was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure and the precipitated crystals were, recrystallized from methanol-diisopropyl ether to give 3-(aminomethyl)-4butoxy-7-fluoro-2-neopentyl-1(2H)-isoquinolinone hydrochloride (1.42 g, 95.9%) as crystals.

reactant | tert-butyl(4-butoxy-7-fluoro-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 4 mmol, 1.74 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC(=CC=C2C1OCCCC)F)=O)CC(C)(C)C)=O | C24H35FN2O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4butoxy-7-fluoro-2-neopentyl-1(2H)-isoquinolinone hydrochloride | 1.42 g, 95.9% | Cl.NCC=1N(C(C2=CC(=CC=C2C1OCCCC)F)=O)CC(C)(C)C | InChI=1S/C19H27FN2O2.ClH/c1-5-6-9-24-17-14-8-7-13(20)10-15(14)18(23)22(16(17)11-21)12-19(2,3)4;/h7-8,10H,5-6,9,11-12,21H2,1-4H3;1H
